US07666890B2
Preparation of 1-(2-(2-chlorobenzylsulfonyl)-6-chlorobenzo[d]thiazol-5-yl)-4-(difluoromethyl)-3-methyl-1H-1,2,4-triazol-5(4H)-one
10 mL dichloromethane was charged with 0.001 mol 1-(2-(2-chlorobenzylthio)-6-chlorobenzo[d]thiazol-5-yl)-4-(difluoromethyl)-3-methyl-1H-1,2,4-triazol-5(4H)-one. The mixture was stirred for 10 mins and then 0.002 mol m-chloroperoxybenzoic acid (MCPBA) were added. After stirring at room temperature for 4 hours, the mixture was poured into 30 mL of water, then extracted with 15 mL dichloromethane twice. Organic phases were combined and dried over anhydrous sodium sulfate. Filtration and removal of solvent under vacuum gave the title compound as a white solid in a 90% yield.

reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
reactant | 1-(2-(2-chlorobenzylthio)-6-chlorobenzo[d]thiazol-5-yl)-4-(difluoromethyl)-3-methyl-1H-1,2,4-triazol-5(4H)-one | 0.001 mol | ClC1=C(CSC=2SC3=C(N2)C=C(C(=C3)Cl)N3N=C(N(C3=O)C(F)F)C)C=CC=C1 | C18H12Cl2F2N4OS2
reactant | m-chloroperoxybenzoic acid | 0.002 mol | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | water | 30 mL | O | H2O
product | 1-(2-(2-chlorobenzylsulfonyl)-6-chlorobenzo[d]thiazol-5-yl)-4-(difluoromethyl)-3-methyl-1H-1,2,4-triazol-5(4H)-one | 90% yield | ClC1=C(CS(=O)(=O)C=2SC3=C(N2)C=C(C(=C3)Cl)N3N=C(N(C3=O)C(F)F)C)C=CC=C1 | C18H12Cl2F2N4O3S2
